US05543507
8-Bromo-2-methylaminooctane is treated with phthalic anhydride in toluene in the presence of triethylamine under reflux. The solvent is removed in vacuo. The residue, when triturated with water, acidified with hydrochloric acid and crystallized from alcohol will yield N-(8-bromo-2-methyloctyl)phthalimide.

reactant | 8-Bromo-2-methylaminooctane | BrCCCCCCC(C)NC | C9H20BrN
reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(8-bromo-2-methyloctyl)phthalimide | BrCCCCCCC(CN1C(C=2C(C1=O)=CC=CC2)=O)C | C17H22BrNO2
